US07250421B2
Step 1: preparation of 5-acetyl-1,3-dibenzyluracil (2a)
A suspension of 5-acetyluracil (3.1 g, 20 mmol), and potassium carbonate (6.9 g, 50 mmol) in DMF (75 ml) was stirred for 20 min. Then benzyl bromide (6.0 ml, 50 mmol) was added. The resulting mixture was stirred for 8 h at room temperature. DMF was distilled under vacuum. The residue was purified by column (dichloromethane:methanol 40:1). The appropriate fraction was concentrated and crystallized from ethanol to afford 5.34 g of a white solid. Yield was 79.8%. Mp. 92-93° C. 1HNMR (CDCl3): 8.23 (s, 1H), 7.29-7.49 (m, 10H), 5.17 (s, 2H), 5.01 (s, 2H), 2.62 (s, 3H). 13CNMR (CDCl3): 194.5, 160.7, 151.0, 148.4, 136.2, 134.4, 129.2, 129.0, 128.9, 128.5, 128.2, 127.8, 112.2, 53.4, 44.9, 30.7. FAB-HRMS: [M+H]+ calcd. for C20H19N2O3 335.1396, found 335.1412.

reactant | 5-acetyluracil | 20 mmol, 3.1 g | C(C)(=O)C=1C(NC(NC1)=O)=O | C6H6N2O3
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 50 mmol, 6.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 5-acetyl-1,3-dibenzyluracil | 5.34 g, Yield was 79.8% | C(C)(=O)C=1C(N(C(N(C1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C20H18N2O3
